US05348684
11-(Trimethylsilyl)undecyl 4-(5-octylpyrimidin-2-yl)phenyl ether
2 g (4.6 mmol) of 10-undecenyl 4-(5-octylpyrimidin-2-yl)phenyl ether, 6 g (63.4 mmol) of chlorodimethylsilane and 0.1 ml of a 0.1 molar solution of H2PtCl6 in isopropanol are heated at 100° C. for 8 h in a sealed glass tube. After opening the tube, the product is evaporated down, taken up in 10 ml of dry tetrahydrofuran and mixed with 50 ml of a 1 molar solution of methylmagnesium bromide in tetrahydrofuran. After heating for 2 hours under reflux, the mixture is hydrolyzed in a saturated aqueous NH4Cl solution and the aqueous solution is extracted repeatedly with diethyl ether. The combined organic phases are washed with saturated NaCl solution, dried over MgSO4 and evaporated down in vacuo. After chromatographic purification (SiO2, CH2Cl2 /hexane 3/1) and recrystallization from methanol, 700 mg of colorless crystals are obtained.

reactant | 10-undecenyl 4-(5-octylpyrimidin-2-yl)phenyl ether | 4.6 mmol, 2 g | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCCCCCC=C | C29H44N2O
reactant | chlorodimethylsilane | 63.4 mmol, 6 g | Cl[SiH](C)C | C2H7ClSi
reactant | isopropanol | C(C)(C)O | C3H8O
product | 11-(Trimethylsilyl)undecyl 4-(5-octylpyrimidin-2-yl)phenyl ether | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCCCCCCC[Si](C)(C)C | C32H54N2OSi
